### PR TITLE
[Merged by Bors] - feat: port Logic.Equiv.Option

### PR DESCRIPTION
**Pull request by arienmalec**
Initial port for Logic.Equiv.Option -- syntax, naming & many proofs.

Based on 39af7d3bf61a98e928812dbc3e16f4ea8b795ca3

### CODE REVIEW

File: Mathlib/Logic/Equiv/Option.lean [hunk 1]
```diff
@@ -0,0 +1,264 @@
...
+
+@[simp]
+theorem optionCongr_trans (e₁ : α ≃ β) (e₂ : β ≃ γ) :
+    (optionCongr e₁).trans (optionCongr e₂) = optionCongr (e₁.trans e₂) :=
+  ext <| Option.map_map _ _
+#align equiv.option_congr_trans Equiv.optionCongr_trans
+
+/-- When `α` and `β` are in the same universe, this is the same as the result of
+`EquivFunctor.map_equiv`. -/
+theorem optionCongr_eq_equivFunction_mapEquiv {α β : Type _} (e : α ≃ β) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Logic/Equiv/Option.lean:58]: Preexisting from mathlib3, but should this be `equivFunctor` instead of `equivFunction`? CC @eric-wieser

File: Mathlib/Logic/Equiv/Option.lean [hunk 2]
```diff
@@ -0,0 +1,264 @@
...
+#align equiv.remove_none_symm Equiv.remove_none_symm
+
+theorem remove_none_some {x : α} (h : ∃ x', e (some x) = some x') :
+    some (removeNone e x) = e (some x) :=
+  removeNone_aux_some e h
+#align equiv.remove_none_some Equiv.remove_none_some
+
+theorem remove_none_none {x : α} (h : e (some x) = none) : some (removeNone e x) = e none :=
+  removeNone_aux_none e h
+#align equiv.remove_none_none Equiv.remove_none_none
```
Comment (Ruben-VandeVelde) [inline Mathlib/Logic/Equiv/Option.lean:134]: These should all have `removeNone` in the name, I think

File: Mathlib/Logic/Equiv/Option.lean [hunk 3]
```diff
@@ -0,0 +1,264 @@
...
+  · rw [remove_none_some _ ⟨a, h⟩]
+    have h1 := congr_arg e.symm h
+    rw [symm_apply_apply] at h1
+    simp only [false_iff_iff, apply_eq_iff_eq]
+    simp [h1, apply_eq_iff_eq]
+
+#align equiv.some_remove_none_iff Equiv.some_removeNone_iff
+
+@[simp]
+theorem removeNone_option_congr (e : α ≃ β) : removeNone e.optionCongr = e :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Logic/Equiv/Option.lean:155]: `removeNone_optionCongr`?

File: Mathlib/Logic/Equiv/Option.lean [hunk 4]
```diff
@@ -0,0 +1,264 @@
...
+  Equiv.ext fun x => Option.some_injective _ <| remove_none_some _ ⟨e x, by simp [EquivFunctor.map]⟩
+#align equiv.remove_none_option_congr Equiv.removeNone_option_congr
+
+end RemoveNone
+
+theorem optionCongr_injective : Function.Injective (optionCongr : α ≃ β → Option α ≃ Option β) :=
+  Function.LeftInverse.injective removeNone_option_congr
+#align equiv.option_congr_injective Equiv.optionCongr_injective
+
+set_option maxHeartbeats 600000 -- next def times out with default heartbeats (200000)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Logic/Equiv/Option.lean:165]: That's unfortunate. Can we find someone to debug? Does it help to squeeze the simps?

File: Mathlib/Logic/Equiv/Option.lean [hunk 5]
```diff
@@ -0,0 +1,264 @@
...
+
+/-- Equivalences between `Option α` and `β` that send `none` to `x` are equivalent to
+equivalences between `α` and `{y : β // y ≠ x}`. -/
+def option_subtype [DecidableEq β] (x : β) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Logic/Equiv/Option.lean:169]: Should this be `optionSubtype`? (Then also in all the lemmas below)

File: Mathlib/Logic/Equiv/Option.lean [hunk 6]
```diff
@@ -0,0 +1,264 @@
...
+      (e : { e : Option α ≃ β // e none = x })
+      (a : α)
+      (h) : option_subtype x e a = ⟨(e : Option α ≃ β) a, h⟩ := rfl
+#align equiv.option_subtype_apply_apply Equiv.option_subtype_apply_apply
+
+@[simp]
+theorem coe_option_subtype_apply_apply
+      [DecidableEq β] (x : β)
+      (e : { e : Option α ≃ β // e none = x })
+      (a : α) : ↑(option_subtype x e a) = (e : Option α ≃ β) a := rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Logic/Equiv/Option.lean:221]: Four spaces of indentation is enough, I think

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]

File: Mathlib/Logic/Equiv/Option.lean (hunk 5 above)
Comment (arienmalec) [reply Mathlib/Logic/Equiv/Option.lean:169]: Think that's right, following `optionCongr` etc.

File: Mathlib/Logic/Equiv/Option.lean (hunk 4 above)
Comment (arienmalec) [reply Mathlib/Logic/Equiv/Option.lean:165]: See: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/requesting.20help.20on.20mathlib4.23674

File: Mathlib/Logic/Equiv/Option.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/Logic/Equiv/Option.lean:58]: Yes, please fix the name.

File: Mathlib/Logic/Equiv/Option.lean [hunk 7]
```diff
@@ -0,0 +1,264 @@
...
+
+namespace Equiv
+
+open Option
+
+variable {α β γ : Type _}
+
+section OptionCongr
+
+/-- A universe-polymorphic version of `EquivFunctor.map_equiv Option e`. -/
```
Comment (semorrison) [inline Mathlib/Logic/Equiv/Option.lean:31]:
```suggestion
/-- A universe-polymorphic version of `EquivFunctor.mapEquiv Option e`. -/
```

File: Mathlib/Logic/Equiv/Option.lean [hunk 8]
```diff
@@ -0,0 +1,264 @@
...
+#align equiv.option_congr_symm Equiv.optionCongr_symm
+
+@[simp]
+theorem optionCongr_trans (e₁ : α ≃ β) (e₂ : β ≃ γ) :
+    (optionCongr e₁).trans (optionCongr e₂) = optionCongr (e₁.trans e₂) :=
+  ext <| Option.map_map _ _
+#align equiv.option_congr_trans Equiv.optionCongr_trans
+
+/-- When `α` and `β` are in the same universe, this is the same as the result of
+`EquivFunctor.map_equiv`. -/
```
Comment (semorrison) [inline Mathlib/Logic/Equiv/Option.lean:57]:
```suggestion
`EquivFunctor.mapEquiv`. -/
```

File: Mathlib/Logic/Equiv/Option.lean (hunk 4 above)
Comment (semorrison) [reply Mathlib/Logic/Equiv/Option.lean]: I identified the slow simp and discovered that `rfl` closes the goal quickly.

**Comment by semorrison** [comment]
bors merge
